US06479670B1
5.1. Preparation of 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid
In 11 ml of abs. DMF was successively dissolved 1.061 g (1.25 eq.) of methyl 4-iodo-benzoate, 114 mg (0.05 eq.) of bis (triphenylphosphine)palladium(II) chloride, 74.1 mg (0.12 eq.) of CuI, and 1.13 ml (2.5 eq.) of triethylamine. 701 mg (3.24 mmol) of the above prepared 6-ethynyl-4-methoxymethyl-4-methyl-chroman, dissolved in 2.7 ml of abs. DMF, was added within 1 h via dropping funnel. After 0.25 h, the reaction was quenched by pouring the reaction mixture onto crushed ice/ HCl. Extraction with diethylether, washing the organic phase twice with water, drying it over magnesium sulfate, filtration and evaporation of the solvent yielded after flash chromatography (SiO2, hexane/ ethylacetate 92/8) 630 mg of the title compound as yellowish oil.

reactant | methyl 4-iodo-benzoate | 1.061 g, 1.25 eq. | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | triethylamine | 1.13 ml, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 6-ethynyl-4-methoxymethyl-4-methyl-chroman | C(#C)C=1C=C2C(CCOC2=CC1)(C)COC | C14H16O2
catalyst | bis (triphenylphosphine)palladium(II) chloride | 114 mg, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 74.1 mg, 0.12 eq. | [Cu]I
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid | 630 mg | COCC1(CCOC2=CC=C(C=C12)C#CC1=CC=C(C(=O)O)C=C1)C | C21H20O4
